US08350090B1
3-Methoxyphenylacetic acid (20 g, 120.35 mmol) was dissolved in CH2Cl2 (200 mL), and furan (24.6 g, 361.39 mmol) and trifluoroacetic anhydride (37.8 g, 180 mmol) were added to the solution. The reaction was kept being stirred overnight at room temperature. The reaction was quenched with saturated NaHCO3 to pH=6.9, and the organic reagent in the mixture was evaporated. The residue was extracted with EtOAc, and the organic layer was washed with brine, dried over MgSO4, and evaporated. The resulting residue was purified by chromatography on a silica gel column using hexane-EtOAc as eluent to give 1-(furan-2-yl)-2-(3-methoxyphenyl)ethan-1-one as yellow oil: 20 g (yield: 77%)

reactant | 3-Methoxyphenylacetic acid | 120.35 mmol, 20 g | COC=1C=C(C=CC1)CC(=O)O | C9H10O3
reactant | furan | 361.39 mmol, 24.6 g | O1C=CC=C1 | C4H4O
reactant | trifluoroacetic anhydride | 180 mmol, 37.8 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 1-(furan-2-yl)-2-(3-methoxyphenyl)ethan-1-one | yield: 77% | O1C(=CC=C1)C(CC1=CC(=CC=C1)OC)=O | C13H12O3
